US07612099B2
3-[(5-Fluoro-3-methyl-1H-indol-2-yl)-phenyl-methyl]-4-hydroxy-5-isopropyl-1,5-dihydro-pyrrol-2-one
Using general procedure C, 4-hydroxy-5-isopropyl-1,5-dihydro-pyrrol-2-one (Lit. 11) was reacted with benzaldehyde and 5-fluoro-3-methyl-1H-indole to give the title compound as a yellow solid. MS: 377.1 ([M−H]−).

reactant | 4-hydroxy-5-isopropyl-1,5-dihydro-pyrrol-2-one | OC1=CC(NC1C(C)C)=O | C7H11NO2
reactant | benzaldehyde | C(C1=CC=CC=C1)=O | C7H6O
reactant | 5-fluoro-3-methyl-1H-indole | FC=1C=C2C(=CNC2=CC1)C | C9H8FN
product | 3-[(5-Fluoro-3-methyl-1H-indol-2-yl)-phenyl-methyl]-4-hydroxy-5-isopropyl-1,5-dihydro-pyrrol-2-one | FC=1C=C2C(=C(NC2=CC1)C(C=1C(NC(C1O)C(C)C)=O)C1=CC=CC=C1)C | C23H23FN2O2
